US04547280
Amylase was assayed with the maltose sensor provided with the palladium cathode, made in Example 1. That is, the sensor was mounted on an assay cell provided with a stirrer and a thermostat. The assay cell was kept at 37° C., and a phosphate buffer solution at 0.1 mole/l and pH 7.0 was filled therein, and 20 μl of control serum containing amylase and 80 mg/dl of glucose was added thereto as a sample. Then, glucose in the sample was assayed. Then, 20 μl of said phosphate buffer solution containing maltopentaose at a concentration of 0.2 g/l was added thereto as a substrate, and a rate of maltose produced by decomposition by amylase was measured. Relationship with output current from the sensor during the measurement is shown in FIG. 3, where t1 is 15 seconds, i1 100 nA, and ##EQU1## is 6 nA/min.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | maltopentaose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O)CO)CO)CO)CO)O)O)O)O | C30H52O26
solvent | phosphate | 20 μl | P(=O)([O-])([O-])[O-]
product | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
